US07456186B2
Preparation of 7-(3-(Bromophenyl)-7-[4-(trifluoromethoxy)phenyl]-7H-imidazo[1,5-a]imidazol-5-ylamine
A mixture of 1-(3-bromophenyl)-1-(imidazol-2-yl)-1-[4-(trifluoromethoxy)phenyl]methylamine (1.67 g, 4.05 mmol) and cyanogen bromide (1.75 g, 16.5 mmol) in acetonitrile is heated at 100° C. in a sealed tube overnight, cooled to room temperature and concentrated. The resultant residue is purified twice by flash chromatography (silica, 96:4:0.5 methylene chloride/methanol/concentrated ammonium hydroxide, then 85:15 to 50:50 hexanes/ethyl acetate as eluent) to afford the title compound as a yellow solid 0.671 g (38% yield), identified by NMR and mass spectral analyses. 1H NMR (500 MHz, CDCl3) δ 7.61 (t, J=1.6 Hz, 1H), 7.53-7.48 (m, 2H), 7.46-7.41 (m, 3H), 7.27-7.22 (m, 4H); ESI MS m/z 437 [C18H12BrF3N4O+H]+.

reactant | 1-(3-bromophenyl)-1-(imidazol-2-yl)-1-[4-(trifluoromethoxy)phenyl]methylamine | 4.05 mmol, 1.67 g | BrC=1C=C(C=CC1)C(C1=CC=C(C=C1)OC(F)(F)F)(C=1NC=CN1)N | C17H13BrF3N3O
reactant | cyanogen bromide | 16.5 mmol, 1.75 g | N#CBr | CBrN
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(Bromophenyl)-7-[4-(trifluoromethoxy)phenyl]-7H-imidazo[1,5-a]imidazol-5-ylamine | 0.671 g, 38% yield | BrC1=C(C=CC=C1)C1=CN=C2N1C(=NC2C2=CC=C(C=C2)OC(F)(F)F)N | C18H12BrF3N4O
